US04053601
Addition of butyric anhydride to a stirred suspension of 6-[5-amino-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(2H)-pyridazinethione in an aqueous buffer solution at pH 5.5 gives 6-[2-(3-t-butylamino-2-hydroxypropoxy)-5-butyramidophenyl]-3(2H)pyridazinethione, which gives the title product when boiled with hydrazine hydrate in ethanol.

reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | 6-[5-amino-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(2H)-pyridazinethione | NC=1C=CC(=C(C1)C=1C=CC(NN1)=S)OCC(CNC(C)(C)C)O | C17H24N4O2S
product | 6-[2-(3-t-butylamino-2-hydroxypropoxy)-5-butyramidophenyl]-3(2H)pyridazinethione | C(C)(C)(C)NCC(COC1=C(C=C(C=C1)NC(CCC)=O)C=1C=CC(NN1)=S)O | C21H30N4O3S
